US08445505B2
A suspension of 4-bromo-2,5-dimethylaniline (4.00 g, 20 mmol), pyridin-3-ylboronic acid (2.70 g, 11 mmol), Pd2(dba)3 (0.55 g, 0.6 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.98 g, 1.2 mmol) and Na2CO3 (10.6 g, 100 mmol) in n-BuOH (50 mL) was degassed by a stream of argon gas for 15 min. The reaction flask was sealed and placed in a pre-heated oil bath (115° C.). After stirring overnight, the reaction was cooled and filtered. The filter cake was washed with DCM and the filtrate was concentrated in vacuo. The resulting residue was dissolved in EtOAc (150 mL). EtOAC is sequentially washed with water (20 mL), brine (20 mL), dried over Na2SO4 and evaporated. The crude product was purified by silica chromatography (0-50% EtOAC in hexanes gradient) to give 2,5-dimethyl-4-(pyridin-3-yl)aniline as a yellow solid; ESMS m/z 199.1 (M+H+).

reactant | 4-bromo-2,5-dimethylaniline | 20 mmol, 4.00 g | BrC1=CC(=C(N)C=C1C)C | C8H10BrN
reactant | pyridin-3-ylboronic acid | 11 mmol, 2.70 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.2 mmol, 0.98 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | Na2CO3 | 100 mmol, 10.6 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-BuOH | 50 mL | CCCCO | C4H10O
catalyst | Pd2(dba)3 | 0.6 mmol, 0.55 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,5-dimethyl-4-(pyridin-3-yl)aniline | CC1=C(N)C=C(C(=C1)C=1C=NC=CC1)C | C13H14N2
